US04933355
Isobutyl 2-aminothiazol-4-ylglyoxylate
A mixture comprising 10 g of potassium 2-aminothiazol-4-ylglyoxylate, 15 g of isobutyl alcohol and 50 ml of a 4N dioxane solution of hydrogen chloride was stirred at room temperature for 2 days. The reaction mixture was poured into water and neutralized with potassium carbonate, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the ethyl acetate was evaporated off under reduced pressure, giving the desired compound as a pale yellow powder.

reactant | potassium 2-aminothiazol-4-ylglyoxylate | 10 g | NC=1SC=C(N1)C(C(=O)[O-])=O.[K+]
reactant | isobutyl alcohol | 15 g | C(C(C)C)O | C4H10O
reactant | hydrogen chloride | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | dioxane | 4N | O1CCOCC1 | C4H8O2
product | Isobutyl 2-aminothiazol-4-ylglyoxylate | NC=1SC=C(N1)C(C(=O)OCC(C)C)=O | C9H12N2O3S
